US05853694
4.1. 1-(3-phenyl-1-propyl)-4-n-dodecylpyridinium iodide
The compound was synthesized by boiling a mixture of 2.26 g (9.2 mmol) 1-iodo-3-phenyl propane and 2,57 g (10.0 mmol) 4-n-dodecylpyridine in 35 ml of dry acetone for 16 hours. The solvent was evaporated and the yellow solid substance was recrystallized from THF/ether. The yield is 3.06 g (6.2 mmol), melting point 79.0°-80.0° C.

reactant | 1-iodo-3-phenyl propane | 9.2 mmol, 2.26 g | ICCCC1=CC=CC=C1 | C9H11I
reactant | 4-n-dodecylpyridine | 10.0 mmol, 2,57 g | C(CCCCCCCCCCC)C1=CC=NC=C1 | C17H29N
solvent | acetone | 35 ml | CC(=O)C | C3H6O
product | 1-(3-phenyl-1-propyl)-4-n-dodecylpyridinium iodide | [I-].C1(=CC=CC=C1)CCC[N+]1=CC=C(C=C1)CCCCCCCCCCCC | InChI=1S/C26H40N.HI/c1-2-3-4-5-6-7-8-9-10-12-18-26-20-23-27(24-21-26)22-15-19-25-16-13-11-14-17-25;/h11,13-14,16-17,20-21,23-24H,2-10,12,15,18-19,22H2,1H3;1H/q+1;/p-1
